US06630461B2
34.1 1-bromomethyl-4-nitrobenzene
4-nitrobenzyl alcohol (6 g, 39 mmoles) is put into solution in dichloromethane (100 ml) and carbon tetrabromide (14.9 g, 45 mmoles) is added. Triphenylphosphine (11.8 g, 45 mmoles) is added in portions to the medium at 0° C. Then the mixture is agitated for 2 hours at ambient temperature. The solvent is evaporated off and the product obtained is purified on silica gel in an ethyl acetate/heptane mixture (1/2). It is obtained in the form of white needle-shaped crystals (7.2 g; 85%). Melting point: 97-98° C.

reactant | 4-nitrobenzyl alcohol | 39 mmoles, 6 g | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
reactant | carbon tetrabromide | 45 mmoles, 14.9 g | C(Br)(Br)(Br)Br | CBr4
reactant | Triphenylphosphine | 45 mmoles, 11.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-bromomethyl-4-nitrobenzene | BrCC1=CC=C(C=C1)[N+](=O)[O-] | C7H6BrNO2
